US03948937
A mixture of 3-(2-carboxy-1-cyclohexen-1-yl)-5-phenylpyrazole (15.0 g) and pyridine (125 ml) is treated at 25°C with thionyl chloride (13.5 g); after stirring for 2 hours, ethanol (40.0 g) is added, and the mixture is stirred for 3 hours. The reaction mixture is partitioned between water and methylene chloride; the organic layer is washed with water and evaporated to give 3-(2-carboethoxy-1-cyclohexen-1-yl)-5-phenylpyrazole.

reactant | 3-(2-carboxy-1-cyclohexen-1-yl)-5-phenylpyrazole | 15.0 g | C(=O)(O)C1=C(CCCC1)C1=NNC(=C1)C1=CC=CC=C1 | C16H16N2O2
reactant | pyridine | 125 ml | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 13.5 g | S(=O)(Cl)Cl | Cl2OS
solvent | ethanol | 40.0 g | C(C)O | C2H6O
product | 3-(2-carboethoxy-1-cyclohexen-1-yl)-5-phenylpyrazole | C(=O)(OCC)C1=C(CCCC1)C1=NNC(=C1)C1=CC=CC=C1 | C18H20N2O2
